US07419969B2
(2-(Chloromethyl)-1,3-dioxolan-2-yl)methyl acetate.
A solution of 1-acetoxy-3-chloroacetone (20.0 g, 133 mmol, TCI America) and 1,2-bis(trimethylsilyloxy)ethane (30.2 g, 146 mmol, Aldrich) in anhydrous CH2Cl2 and under N2 atmosphere was cooled (−78° C., dry ice/acetone) and trimethylsilyl trifluoromethanesulfonate (1.2 mL, 6.6 mmol, Aldrich) was added. The reaction was warmed to room temperature and stirred for 5 days, with monitoring by 1H-NMR. The crude reaction solution was separated by silica gel column, and eluted with CH2Cl2, then 5% Et2O in CH2Cl2. Product fractions were pooled and concentrated in-vacuo giving the title compound (19.05 g) as a yellow oil, contaminated with 1-acetoxy-3-chloroacetone (2.93 g) and CH2Cl2 (1.0 g): 1H NMR (500 MHz, CDCl3) δ ppm 4.17 (2H, s), 4.03-4.11 (4H, m), 3.60 (2H, s), 2.09 (3H, s).

reactant | 1-acetoxy-3-chloroacetone | 133 mmol, 20.0 g | C(C)(=O)OCC(=O)CCl | C5H7ClO3
reactant | 1,2-bis(trimethylsilyloxy)ethane | 146 mmol, 30.2 g | C[Si](OCCO[Si](C)(C)C)(C)C | C8H22O2Si2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | trimethylsilyl trifluoromethanesulfonate | 6.6 mmol, 1.2 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
product | (2-(Chloromethyl)-1,3-dioxolan-2-yl)methyl acetate | 19.05 g | C(C)(=O)OCC1(OCCO1)CCl | C7H11ClO4
